US07923559B2
1-Benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane
A mixture of 1-benzyl-1,7-diazaspiro[4.4]nonane (2.00 g, 9.26 mmol), 3-bromopyridine (1.38 g, 8.73 mmol), potassium tert-butoxide (2.50 g, 22.3 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.318 g, 0.347 mmol), 2,2-bis(diphenylphosphino)-1,1′-binaphthyl (0.324 g, 0.520 mmol) and dry toluene (50 mL) was placed in a pressure tube under argon. The mixture was stirred and heated at 90° C. (bath temperature) for 24 h and cooled. Water (20 mL) was added and the mixture was extracted with ethyl acetate (6×25 mL). The extracts were dried (K2CO3) and concentrated. Column chromatography of the residue on Merck silica gel 60 (70-230 mesh), with 6:4 (v/v) chloroform/acetone, gave 1.80 g (66.2%) of light brown oil, after concentration of selected fractions.

reactant | 1-benzyl-1,7-diazaspiro[4.4]nonane | 9.26 mmol, 2.00 g | C(C1=CC=CC=C1)N1CCCC12CNCC2 | C14H20N2
reactant | 3-bromopyridine | 8.73 mmol, 1.38 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium tert-butoxide | 22.3 mmol, 2.50 g | CC(C)([O-])C.[K+]
reactant | 2,2-bis(diphenylphosphino)-1,1′-binaphthyl | 0.520 mmol, 0.324 g | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.347 mmol, 0.318 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | 20 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane | C(C1=CC=CC=C1)N1CCCC12CN(CC2)C=2C=NC=CC2 | C19H23N3
